US04608079
Preparation of sodium 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)nicotinate
To 1.0 g 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)nicotinic acid is added a solution of 0.1498 g sodium hydroxide in 20 mL absolute methanol. The mixture is stirred under nitrogen at room temperature overnight. The solvent is removed to give a solid which is dried in a vacuum oven at 60° C. for two days. The thus-formed sodium 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)nicotinate darkens at 230° C. and decomposes at 247°-250° C.

reactant | 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)nicotinic acid | 1.0 g | C(C)C=1C=NC(=C(C(=O)O)C1)C1NC(C(N1)(C)C(C)C)=O | C15H21N3O3
reactant | sodium hydroxide | 0.1498 g | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | sodium 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)nicotinate | C(C)C=1C=NC(=C(C(=O)[O-])C1)C1NC(C(N1)(C)C(C)C)=O.[Na+] | InChI=1S/C15H21N3O3.Na/c1-5-9-6-10(13(19)20)11(16-7-9)12-17-14(21)15(4,18-12)8(2)3;/h6-8,12,18H,5H2,1-4H3,(H,17,21)(H,19,20);/q;+1/p-1
